US08669361B2
1-(2,2-difluoroethyl)-4-nitro-pyrazole (235 mg, 1.33 mmol) was dissolved in methanol (50 mL) and hydrogenated on H-Cube at 50° C. and 40 bar pressure to give 1-(2,2-difluoroethyl)pyrazol-4-amine (183 mg, 93%).

reactant | 1-(2,2-difluoroethyl)-4-nitro-pyrazole | 1.33 mmol, 235 mg | FC(CN1N=CC(=C1)[N+](=O)[O-])F | C5H5F2N3O2
solvent | methanol | 50 mL | CO | CH4O
product | 1-(2,2-difluoroethyl)pyrazol-4-amine | 183 mg, 93% | FC(CN1N=CC(=C1)N)F | C5H7F2N3
